US06579868B1
3-[2-Amino-6-chloro-8-(3-fluorophenyl)-9H-9-purinyl]-benzonitrile (2.6 g) was dissolved in 105 ml of tetrahydrofuran, then 2.9 ml of isoamyl nitrite, 5.8 ml of diiodomethane and 1.37 g of cuprous iodide were added thereto and the mixture was heated under reflux for 1 hour. After the resulting mixture was cooled to room temperature, it was filtered to remove unnecessary substances and washed with 100 ml of ethyl acetate. The filtrate was concentrated to dryness and purified by a silica gel column (50 g of silica gel). It was eluted with ethyl acetate and hexane (1:1). The fractions containing the aimed product were collected, concentrated and suspended in 100 ml of a mixed solvent of ethyl acetate and hexane (1:4), and the resulting precipitates were collected by filtration to give 1.7 g of 3-[6-chloro-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]benzonitrile. The yield was 50%.

reactant | 3-[2-Amino-6-chloro-8-(3-fluorophenyl)-9H-9-purinyl]-benzonitrile | 2.6 g | NC1=NC(=C2N=C(N(C2=N1)C=1C=C(C#N)C=CC1)C1=CC(=CC=C1)F)Cl | C18H10ClFN6
reactant | isoamyl nitrite | 2.9 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | diiodomethane | 5.8 ml | ICI | CH2I2
solvent | tetrahydrofuran | 105 ml | O1CCCC1 | C4H8O
product | 3-[6-chloro-8-(3-fluorophenyl)-2-iodo-9H-9-purinyl]benzonitrile | 1.7 g, yield was 50% | ClC1=C2N=C(N(C2=NC(=N1)I)C=1C=C(C#N)C=CC1)C1=CC(=CC=C1)F | C18H8ClFIN5
